US06599723B1
NADP+ (36.0 mg, 47.0 μmol) was placed in 2 mL of a 0.1 M phosphate buffer. The pH of this solution was adjusted to 8.3 with NaOH and then placed in an 80 mL Fisher-Porter bottle. The Fisher-Porter bottle was evacuated and refilled with argon three times then [Cl2Ru(TPPTS)2]2 (9.7 mg, 3.7 μmol) was added under a flow of argon. The Fisher-Porter bottle was evacuated and filled with 70 psi of H2 and heated to 40° C. for 3.0 hr. The volatiles were removed under reduced pressure and a sample dissolved in D2O. To this was added 20 μl of trimethylsilylpropionate standard solution. 1H NMR integration shows that 29.0 μmole of NADPH have been produced under these conditions.

reactant | NADP+ | 47.0 μmol, 36.0 mg | C1=CC(=C[N+](=C1)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)OC[C@@H]3[C@H]([C@H]([C@@H](O3)N4C=NC5=C4N=CN=C5N)OP(=O)(O)O)O)O)O)C(=O)N
reactant | phosphate | 0.1 M | P(=O)([O-])([O-])[O-]
reactant | NaOH | [OH-].[Na+]
product | NADPH | 29.0 μmole | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)OP(=O)(O)O)N | C21H30N7O17P3
